US08084448B2
A. (E)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-isopropylacrylamide
To a mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (240 mg, 0.44 mmol), N-isopropylacrylamide (60 mg, 0.53 mmol) and triethylamine (445 mg, 0.44 mmol) in MeCN (5 mL) in a pressure vessel is added Pd(OAc)2 (5 mg) and the mixture is heated at 100° C. for 8 h. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using hexane/EtOAc (86:15) as eluent to give the title compound as a solid.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.44 mmol, 240 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | N-isopropylacrylamide | 0.53 mmol, 60 mg | C(C)(C)NC(C=C)=O | C6H11NO
reactant | triethylamine | 0.44 mmol, 445 mg | C(C)N(CC)CC | C6H15N
solvent | MeCN | 5 mL | CC#N | C2H3N
catalyst | Pd(OAc)2 | 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-isopropylacrylamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)/C=C/C(=O)NC(C)C | C26H35N3O5SSi
